US04016225
Preparation of O,O-Diethyl O-3,5,6-Trichloro-2-Pyridyl Phosphorothioate
O,O-Diethyl phosphorochloridothioate (11.3 g., 0.06 mole) was added dropwise to a stirred mixture of (1) sodium 3,5,6-trichloro-2-pyridinate (13.2 g., .06 mole) in 30 ml. of methylene chloride and 74 ml. of water, (2) 1 mole percent triethylene diamine, (3) 1 mole percent benzyltriethylammonium chloride and (4) a pH buffer consisting of NaOH and sodium borate. The stirred reaction mixture was maintained at 42° C. for 1.5 hours, cooled to room temperature, and the organic phase separated from the aqueous phase. The organic phase was washed once with approximately 30 ml. water and the organic solvent removed under reduced pressure. The title compound was thus obtained in 97 percent yield, based on 100 percent conversion of starting materials. The product was of excellent purity (approximately 99% pure).

reactant | O,O-Diethyl phosphorochloridothioate | 0.06 mole, 11.3 g | P(OCC)(OCC)(Cl)=S | C4H10ClO2PS
reactant | sodium 3,5,6-trichloro-2-pyridinate | .06 mole, 13.2 g | ClC=1C(=NC(=C(C1)Cl)Cl)C(=O)[O-].[Na+]
reactant | triethylene diamine | C1CN2CCN1CC2 | C6H12N2
reactant | NaOH | [OH-].[Na+]
reactant | sodium borate | B([O-])([O-])[O-].[Na+].[Na+].[Na+]
catalyst | benzyltriethylammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | O,O-Diethyl O-3,5,6-Trichloro-2-Pyridyl Phosphorothioate | 97 percent yield | CCOP(=S)(OCC)OC1=NC(=C(C=C1Cl)Cl)Cl | C9H11Cl3NO3PS
